US07135475B2
A mixture of 1-methyl-4-nitro-1H-pyrazole-3-carboxylic acid methyl ester (500 mg, 2.7 mmol) and 10% palladium on carbon (50 mg) in methanol (25 mL) was subjected to 60 psi pressure of hydrogen gas in a Parr apparatus for 24 h. At this time, the reaction mixture was filtered through a pad of celite and washed with methanol. The filtrate was concentrated in vacuo to afford 4-amino-1-methyl-1H-pyrazole-3-carboxylic acid methyl ester (402 mg, 96%) as an off-white solid: 1H NMR (DMSO-d6, 300 MHz) δ7.10 (s, 1H), 4.65 (broad s, 2H), 3.73 (s, 3H), 3.72 (s, 3H).

reactant | 1-methyl-4-nitro-1H-pyrazole-3-carboxylic acid methyl ester | 2.7 mmol, 500 mg | COC(=O)C1=NN(C=C1[N+](=O)[O-])C | C6H7N3O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
solvent | methanol | 25 mL | CO | CH4O
product | 4-amino-1-methyl-1H-pyrazole-3-carboxylic acid methyl ester | 402 mg, 96% | COC(=O)C1=NN(C=C1N)C | C6H9N3O2
